US06825194B2
(b) (9S)-1-butyl-9-ethyl-9-hydroxy-1H,12H-pyrano[3″,4″:6′,7′]indolizino-[1′,2′:6,5]pyrido-[4,3,2-de]quinazoline-2,10,13(3H,9H,15H)-trione
To a solution of (9S)-9-acetoxy-1-butyl-9-ethyl-1H,12H-pyrano[3″,4″:6′,7′]indolizino-[1′,2′:6,5]pyrido[4,3,2-de]quinazoline-2,10,13(3H,9H,15H)-trione (11.5 mg, 0.023 mmol) in MeOH (3 ml) cooled in an ice-bath was added anhydrous hydrazine (100 μl). The mixture was warmed to room temperature and stirred for 1 hr. Aqueous 1 N HCl solution was added dropwise to acidify the reaction mixture and the mixture was stirred for 1 hr. at room temperature. After concentrated under reduced pressure, the obtaining residue was extracted with CH2Cl2 (20 ml×3). The combined CH2Cl2 solution was washed with brine, dried over MgSO4 and evaporated. The residue was purified by column chromatography (dichloromethane/methanol=30/1) to give pure product (6.1 mg, 58%).

reactant | (9S)-9-acetoxy-1-butyl-9-ethyl-1H,12H-pyrano[3″,4″:6′,7′]indolizino-[1′,2′:6,5]pyrido[4,3,2-de]quinazoline-2,10,13(3H,9H,15H)-trione | 0.023 mmol, 11.5 mg | C(C)(=O)O[C@@]1(C(OCC=2C(N3CC=4C(=NC=5C=6C4N(C(NC6C=CC5)=O)CCCC)C3=CC21)=O)=O)CC | C27H26N4O6
reactant | hydrazine | 100 μl | NN | H4N2
reactant | HCl | 1 N | Cl | ClH
solvent | MeOH | 3 ml | CO | CH4O
product | (9S)-1-butyl-9-ethyl-9-hydroxy-1H,12H-pyrano[3″,4″:6′,7′]indolizino-[1′,2′:6,5]pyrido-[4,3,2-de]quinazoline-2,10,13(3H,9H,15H)-trione | 6.1 mg, 58% | C(CCC)N1C(NC=2C=CC=C3C2C1=C1C(=N3)C3=CC2=C(C(N3C1)=O)COC([C@]2(O)CC)=O)=O | C25H24N4O5
